US07638515B2
2-(2-Fluoro-3-methoxyphenyl)-2-methylpropanal
4.66 g (24.12 mmol) of 2-(2-fluoro-3-methoxyphenyl)-2-methylpropanenitrile is dissolved in 96 ml of toluene. At −65° C. to −60° C., 30 ml (36.18 mmol) of a 1.2 molar solution of DIBAH in toluene is added in drops. After three and one-half hours of stirring at −65° C., 276 ml of a 10% L(+)-tartaric acid solution is added in drops at this temperature. In this case, the temperature rises to 0° C. The cold bath is removed, and the batch is stirred vigorously at room temperature for one hour. The reaction mixture is extracted three times with 300 ml each of diethyl ether. The combined organic extracts are treated as usual (water, brine, drying). After the solvent is spun off, 4.78 g (slightly above 100%) of the desired compound remains.

reactant | 2-(2-fluoro-3-methoxyphenyl)-2-methylpropanenitrile | 24.12 mmol, 4.66 g | FC1=C(C=CC=C1OC)C(C#N)(C)C | C11H12FNO
reactant | DIBAH | CC(C)C[AlH]CC(C)C
reactant | L(+)-tartaric acid | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
solvent | toluene | 96 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Fluoro-3-methoxyphenyl)-2-methylpropanal | FC1=C(C=CC=C1OC)C(C=O)(C)C | C11H13FO2
